US08957068B2
(S)-tert-butyl 1-(4-((5,6-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-7(8H)-yl)methyl)phenyl)ethylcarbamate
A solution of (S)-tert-butyl 1-(4-(chloromethyl)phenyl)ethylcarbamate (127 mg, 0.47 mmol), 5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine (91 mg, 0.56 mmol) and DIPEA (183 mg, 1.41 mmol) in DMSO (2.3 mL) was heated at 80° C. for 16 h. The reaction mixture was diluted with EtOAc (20 mL) and washed with water (20 mL). After separation, the aqueous phase was washed with EtOAc (2×15 mL). Combined organics were dried over Na2SO4, filtered and concentrated. The crude product was used to next step without further purification.

reactant | (S)-tert-butyl 1-(4-(chloromethyl)phenyl)ethylcarbamate | 0.47 mmol, 127 mg | ClCC1=CC=C(C=C1)[C@H](C)NC(OC(C)(C)C)=O | C14H20ClNO2
reactant | 5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine | 0.56 mmol, 91 mg | N=1N=CN2C1CNCC2 | C5H8N4
reactant | DIPEA | 1.41 mmol, 183 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 2.3 mL | CS(=O)C | C2H6OS
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | (S)-tert-butyl 1-(4-((5,6-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-7(8H)-yl)methyl)phenyl)ethylcarbamate | N=1N=CN2C1CN(CC2)CC2=CC=C(C=C2)[C@H](C)NC(OC(C)(C)C)=O | C19H27N5O2
